US07342118B2
1-(2-Methoxy-1,1-dimethyl-ethyl)-4-nitro-1H-imidazole
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester was reduced using sodium borohydride in methanol and the resultant alcohol was alkylated with methyl iodide using sodium hydride as base to provide the title compound: H1 NMR (400 MHz, CDCl3) 1.53 (s, 6H), 3.25 (s, 3H), 3.38 (s, 2H), 7.53 (s, 1H), 7.88 (s, 1H).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester | COC(C(C)(N1C=NC(=C1)[N+](=O)[O-])C)=O | C8H11N3O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(2-Methoxy-1,1-dimethyl-ethyl)-4-nitro-1H-imidazole | COCC(C)(C)N1C=NC(=C1)[N+](=O)[O-] | C8H13N3O3
